US08426447B2
Combined (S)-3-bromo-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (75 mg, 0.183 mmol), tetrakis(triphenylphosphine)palladium (21.13 mg, 0.018 mmol), copper iodide (3.48 mg, 0.018 mmol), THF (366 μL, 0.183 mmol) and DMF (366 μL, 0.183 mmol) in a reaction vial. To the mixture was added diisopropyl amine (512 μL, 3.66 mmol) then ethynylcyclopropane (60.4 mg, 0.914 mmol). The reaction vial was sealed and heated at 110° C. for 1.5 hours. The reaction was allowed to cool to RT before being diluted with water (15 mL) and poured into a separatory funnel containing ethyl acetate (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (1×25 mL). The combined organic layers were washed with water and then brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown foam that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (12 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide (S)-3-(3,3-dimethylbut-1-ynyl)-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as an orange solid.

reactant | (S)-3-bromo-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 0.183 mmol, 75 mg | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=NC1 | C18H12BrN5O2
reactant | THF | 0.183 mmol, 366 μL | C1CCOC1 | C4H8O
reactant | DMF | 0.183 mmol, 366 μL | CN(C)C=O | C3H7NO
reactant | diisopropyl amine | 3.66 mmol, 512 μL | C(C)(C)NC(C)C | C6H15N
reactant | ethynylcyclopropane | 0.914 mmol, 60.4 mg | C(#C)C1CC1 | C5H6
solvent | water | 15 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.018 mmol, 21.13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.018 mmol, 3.48 mg | [Cu](I)I
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (S)-3-(3,3-dimethylbut-1-ynyl)-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | CC(C#CC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=NC1)(C)C | C24H21N5O2
